US08193228B2
1-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-2-(4-isothiazol-5-ylphenyl)propan-2-ol
Hydrogen chloride (4 M in 1,4-dioxane) (2 mL, 0.5 mmol) was added to an ambient temperature solution of 1-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-2-(4-isothiazol-5-ylphenyl)propan-2-ol (103 mg, 0.17 mmol) in methanol (4 mL). After stirring at 70° C. for 1 h, volatiles were removed in vacuo. The residue was basified with 10% aqueous sodium hydroxide and extracted with ethyl acetate. Combined extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% acetone/methylene chloride afforded the title compound. LCMS: 356 (M+H). Individual enantiomer (E1 or E2) was obtained by HPLC separation on a chrial column.

reactant | Hydrogen chloride | 0.5 mmol, 4 M, 2 mL | Cl | ClH
reactant | 1-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-2-(4-isothiazol-5-ylphenyl)propan-2-ol | 0.17 mmol, 103 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C)(O)C1=CC=C(C=C1)C1=CC=NS1)(C)C | C39H39N3OS
solvent | methanol | 4 mL | CO | CH4O
product | 1-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-2-(4-isothiazol-5-ylphenyl)propan-2-ol | CC(CC=1N=C(NC1)CC(C)(O)C1=CC=C(C=C1)C1=CC=NS1)(C)C | C20H25N3OS
